US07989657B2
2-(3-Methyl-4-phenoxy-benzoylamino)-benzoic acid
In analogy to example 2,2-(3-Methyl-4-phenoxy-benzoylamino)-benzoic acid was prepared from 2-(4-bromo-3-methyl-benzoylamino)-benzoic acid methyl ester and phenol. MS (m/e): 346.3 (M−H−, 100%).

reactant | 2-(4-bromo-3-methyl-benzoylamino)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)NC(C1=CC(=C(C=C1)Br)C)=O)=O | C16H14BrNO3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 2-(3-Methyl-4-phenoxy-benzoylamino)-benzoic acid | CC=1C=C(C(=O)NC2=C(C(=O)O)C=CC=C2)C=CC1OC1=CC=CC=C1 | C21H17NO4
